US06451804B1
3-Aminobutane-1,2-diol was similarly prepared as described in Tetrahedron: Asymmetry, 1995, 6(9), 2329-2342. Briefly, to a solution of (2S,3S)-trans-3-methyloxirane-2-methyl-4-nitrobenzoate (10.0 g, 42.2 mmol) (Fluka) in dichloromethane (150 mL) under argon, was combined with titanium isopropoxide (25 mL, 84.3 mmol), and stirred for minutes at room temperature. Aminodiphenyl-methane (14.5 mL, 84.4 mmol) was added, and the reaction was stirred at room temperature overnight. A solution of 10% sodium hydroxide in saturated brine was added and the suspension was stirred for 2 hours. The mixture was filtered and extracted with 0.2M hydrochloric acid. The acidic layers were extracted with dichloromethane and discarded. The acidic layer was basified with sodium hydroxide pellets until pH 9, and then extracted into dichloromethane. The layers were separated, and the organic layer was dried over magnesium sulfate, and concentrated in vacuo to give an oil that was purified by flash column chromatography using 2:1 to 1:1 hexanes:ethyl acetate and 2:1 ethyl acetate:hexane as eluants to give 2.6 g of (R,R)-3-(benzhydrylamino)butane-1,2-diol.

reactant | 3-Aminobutane-1,2-diol | NC(C(CO)O)C | C4H11NO2
reactant | Aminodiphenyl-methane | 84.4 mmol, 14.5 mL | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
catalyst | titanium isopropoxide | 84.3 mmol, 25 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (R,R)-3-(benzhydrylamino)butane-1,2-diol | 2.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]([C@H](CO)O)C | C17H21NO2
